US06288096B1
5-([4-[2-(4-Methylmercaptophenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione
1 g (2.7 mmole) 5-(4-[2-(4-methylmercaptophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione and 1.36 g (5.4 mmole) diethyl-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate were mixed and heated to 160° C. under vacuum (when it melted), after 1 hour at this temperature the heat was removed. Toluene was added, crystals of the starting material was removed by filtration, the filtrate was evaporated and purified by chromatography on silica gel twice using first dichloromethane:methanol (98:2) and then diisopropyl ether as eluents. The reaction was restarted with unreacted material and 0.4 g diethyl-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate and kept at 160° C. for 2 hours. The product was boiled in diisopropyl ether, and purified by chromatography on silica gel using diisopropyl ether as eluent. The combined fractions gave 0.346 g (yield 36%) of the desired product.

reactant | 5-(4-[2-(4-methylmercaptophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 2.7 mmole, 1 g | CSC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C19H17NO3S2
reactant | diethyl-1,4-dihydro-2,6-dimethyl-3,5-pyridinedicarboxylate | 5.4 mmole, 1.36 g | C(C)OC(=O)C1=C(NC(=C(C1)C(=O)OCC)C)C | C13H19NO4
product | 5-([4-[2-(4-Methylmercaptophenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 0.346 g, yield 36% | CSC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C19H19NO3S2
